US05395736
Part B: Preparation of 3-hexyl-4-hydroxy-cyclobut-3 -ene-1,2-dione
6N Hydrochloric acid (150 mL) was added in one portion to a stirred solution of crude 2,3-dibutoxy-4-hexyl-4-hydroxycyclobut-2-en-1-one (15.1 g, prepared in Part A above) in THF (150 mL), and the resultant solution was stirred at room temperature for 3 hours. The reaction mixture was then concentrated under reduced pressure to give a yellow solid. To this solid was added water (100 mL), which was then removed under reduced pressure. Toluene (100 mL) was similarly added and removed under reduced pressure, and then dichloromethane (200 mL) was added to the residue and the resultant solution was filtered and concentrated to produce a yellow oil. Hexanes (200 mL) were added and the resultant solution was cooled to induce crystallization. After recrystallization from hexanes, the desired compound was isolated as tan crystals (4.28 g, 33% yield over Parts A and B). The structure of this compound was confirmed by mass spectroscopy and by 1H and 13C NMR spectroscopy.

reactant | Hydrochloric acid | 6N, 150 mL | Cl | ClH
reactant | 2,3-dibutoxy-4-hexyl-4-hydroxycyclobut-2-en-1-one | C(CCC)OC=1C(C(C1OCCCC)(O)CCCCCC)=O | C18H32O4
reactant | water | 100 mL | O | H2O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 3-hexyl-4-hydroxy-cyclobut-3 -ene-1,2-dione | 33% yield | C(CCCCC)C=1C(C(C1O)=O)=O | C10H14O3
